US04332800
A mixture of 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-acetoacetoxymethyl-3-cephem-4-carboxylic acid (syn isomer) (14.2 g), sodium bicarbonate (2.33 g), potassium iodide (140 g) and 4-carbamoyl-pyridine (5.08 g) in water (140 ml) was stirred for 2.75 hours at 55° C. After cooling, ethyl acetate (100 ml) and 6 N hydrochloric acid were added thereto under stirring to adjust the pH of the mixture to 2. The aqueous layer was separated out, washed with ethyl acetate and concentrated under reduced pressure. An insoluble substance was filtered off and the filtrate was subjected to column chromatography on a non ionic adsorption resin, Diaion HP20 (300 ml). After the column was washed with water (500 ml), the elution was carried out with 30% aqueous methanol. The eluates containing an object compound were collected, evaporated to remove methanol under reduced pressure and lyophilized to give 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido] -3-(4-carbamoyl-1-pyridiniomethyl)-3-cephem-4-carboxylate (syn isomer) (4.7 g), mp 160° to 165° C. (dec.).

reactant | 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-acetoacetoxymethyl-3-cephem-4-carboxylic acid | 14.2 g | C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(CC(=O)C)=O)C(=O)O)C1=O)C1=NSC(=N1)N | C18H20N6O8S2
reactant | sodium bicarbonate | 2.33 g | C([O-])(O)=O.[Na+]
reactant | potassium iodide | 140 g | [I-].[K+]
reactant | 4-carbamoyl-pyridine | 5.08 g | C(N)(=O)C1=CC=NC=C1 | C6H6N2O
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | water | 140 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido] -3-(4-carbamoyl-1-pyridiniomethyl)-3-cephem-4-carboxylate | 4.7 g | C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=C(C=C2)C(N)=O)C(=O)[O-])C1=O)C1=NSC(=N1)N | C20H20N8O6S2
